US06509329B1
Synthesis of 4-(3-Methanesulfonyloxypropyl)-2-(3,4,5-trimethoxyphenyl)pyridine
4-(3-Hydroxypropyl)-2-(3,4,5-Trimethoxyphenyl)-pyridine (486 mg) was dissolved in chloroform (10 mL), and to the solution methanesulfonyl chloride (186 μL) and triethylamine (400 μL) were added, and the mixture was stirred overnight at room temperature. The reaction mixture was diluted with chloroform, washed with water and saturated brine, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=1:1) to obtain the title compound.

reactant | 4-(3-Hydroxypropyl)-2-(3,4,5-Trimethoxyphenyl)-pyridine | 486 mg | OCCCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C17H21NO4
reactant | methanesulfonyl chloride | 186 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 400 μL | C(C)N(CC)CC | C6H15N
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-(3-Methanesulfonyloxypropyl)-2-(3,4,5-trimethoxyphenyl)pyridine | CS(=O)(=O)OCCCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C18H23NO6S
